US07402684B2
(R)-2-[4-(3,4-Difluoro-benzyloxy)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester:
Followed the same procedure as that of step 2 in Example 91 with the use of (R)-2-(4-hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (150 mg, 0.5 mmol) and 3,4-difluoro-benzyl bromide (145 mg, 0.6 mmol) to afford the title product, (120 mg, 55% yield); LCMS, 100% APCI+, Calcd; 419.5. Found m/z: 421.4 (M+2). 1H NMR (400 MHz, CDCl3); δ 1.47 (s, 9H), 1.80-2.09 (m, 4H), 3.28-3.46 (m, 2H), 3.69-3.91 (m, 1H), 4.02-4.18 (m 2H), 4.95 (s, 2H), 6.84-6.88 (m, 4H), 7.55-7.28 (m, 3H).

reactant | (R)-2-(4-hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.5 mmol, 150 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)O | C16H23NO4
reactant | 3,4-difluoro-benzyl bromide | 0.6 mmol, 145 mg | FC=1C=C(CBr)C=CC1F | C7H5BrF2
product | (R)-2-[4-(3,4-Difluoro-benzyloxy)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 120 mg, 55% yield | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)OCC1=CC(=C(C=C1)F)F | C23H27F2NO4
